US09334464B2
Preparation of (R)-3,7-dimethyl-6-octenyl 2-(4-methylcyclohexyl)-2-oxoacetate
A solution of ethyl 2-(4-methylcyclohexyl)-2-oxoacetate (5.0 g, 25 mmol), of (R)-3,7-dimethyl-6-octenol (4.74 g, 30 mmol) and NaOCH3 (0.5 ml, 30% in methanol) in cyclohexane (50 ml) was heated with a water separator under reflux for 2 days. After cooling to room temperature, ether was added and the organic phase washed with a saturated solution of NaCl, dried (Na2SO4), filtered and concentrated. Column chromatography (SiO2, heptane/ether 7:3 and heptane/ether 95:5) gave 1.16 g (15%) of the pure product a colorless oil as a mixture of cis/trans isomers (ca. 1:3).

reactant | ethyl 2-(4-methylcyclohexyl)-2-oxoacetate | 25 mmol, 5.0 g | CC1CCC(CC1)C(C(=O)OCC)=O | C11H18O3
reactant | (R)-3,7-dimethyl-6-octenol | 30 mmol, 4.74 g | C[C@@H](CCO)CCC=C(C)C | C10H20O
reactant | NaOCH3 | 0.5 ml | O([Na])C
reactant | water | O | H2O
solvent | cyclohexane | 50 ml | C1CCCCC1 | C6H12
solvent | ether | CCOCC | C4H10O
product | (R)-3,7-dimethyl-6-octenyl 2-(4-methylcyclohexyl)-2-oxoacetate | 1.16 g, 15% | CC1CCC(CC1)C(C(=O)OCC[C@@H](CCC=C(C)C)C)=O | C19H32O3
